US06747023B1
1,4-Dibenzyl-2-[(1,3-dioxoisoindol-2-yl)methyl]piperazine
To a solution of 1,4-dibenzyl-2-(hydroxymethyl)piperazine (1.51 g), phthalimide (0.790 g) and triphenylphosphine (1.40 g) in tetrahydrofuran (20 ml) was added a 40% toluene solution (2.34 ml) of diethyl azodicarboxylate under ice cooling. The resulting mixture was stirred at room temperature for 6 hours. Furthermore, 1,4-dibenzyl-2-(hydroxymethyl)piperazine (0.87 g), phthalimide (0.486 g), triphenylphosphine (0.81 g) and tetrahydrofuran (5 ml) were added to the reaction mixture, followed by the addition of a 40% toluene solution (1.34 ml) of diethyl azodicarboxylate under ice cooling. The resulting mixture was stirred at room temperature for 18.5 hours. Phthalimide (0.405 g) and a 40% toluene solution (1.10 ml) of diethyl azodicarboxylate were added under ice cooling, followed by stirring at room temperature for 20 hours. The solvent was distilled off under reduced pressure. The residue was subjected to column chromatography twice (3% methanol—methylene chloride for the first time and ethyl acetate/hexane=1/3 for the second time) using as a carrier silica gel, whereby a crude product was obtained. The crude product was crystallized from hexane - methylene chloride, collected by filtration and washed with hexane, whereby the title compound (0.243 g) was obtained as colorless powder.

reactant | 1,4-dibenzyl-2-(hydroxymethyl)piperazine | 1.51 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | phthalimide | 0.790 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 1.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1,4-dibenzyl-2-(hydroxymethyl)piperazine | 0.87 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | phthalimide | 0.486 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Phthalimide | 0.405 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | toluene | 1.10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.34 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.34 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-Dibenzyl-2-[(1,3-dioxoisoindol-2-yl)methyl]piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C27H27N3O2
